### PR TITLE
feat: Add K3 verification for Conjecture 19

### PR DESCRIPTION
**Pull request by henrykmichalewski**
## Summary

Prove that K3 (complete graph on 3 vertices) satisfies Conjecture 19.

## Changes

- **K3_b**: Proves `b(K3) = 2` (largest induced bipartite subgraph size)
- **K3_ecc**: Proves `ecc(K3, {v}) = 1` for all vertices
- **K3_indepNeighbors**: Proves `indepNeighbors(K3, v) = 1` for all vertices  
- **K3_not_counterexample**: Main theorem showing K3 satisfies the conjecture

Includes helper lemma `indepNum_completeGraph` proving the independence number of a complete graph is 1.

## Testing

- All proofs compile successfully with `lake build`
- No `sorry` placeholders remain in the file

### CODE REVIEW

File: FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean [hunk 1]
```diff
@@ -0,0 +1,174 @@
...
+          exfalso; apply huv_ne; ext; simp only [u_eq_0, v_eq_0]
+        · -- u = 0, v = 1
+          simp only [u_eq_0, v_eq_1, ↓reduceIte]
+          exact zero_ne_one
+        · -- u = 1, v = 0
+          simp only [u_eq_1, v_eq_0, ↓reduceIte, one_ne_zero]
+          exact zero_ne_one.symm
+        · -- u = 1, v = 1
+          exfalso; apply huv_ne; ext; simp only [u_eq_1, v_eq_1]
+      · simp
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean:92]:
```suggestion
  simp only [GraphConjecture19.K3, b]
  norm_cast
  refine IsGreatest.csSup_eq ?_
  constructor
  · simp [SimpleGraph.IsBipartite]
    use {0,1}
    constructor
    · use fun i => ite (i.1 = 0) 0 1
      simp
      decide
    · decide
  · simp only [upperBounds, Finset.coe_sort_coe, completeGraph_eq_top, Set.mem_setOf_eq, forall_exists_index,
      and_imp, forall_apply_eq_imp_iff₂]
    intro a ha
    cases ha
    cases ‹_›
    decide+revert   
```

I think this could even be simplified further.

File: FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean:1]: I suggest to put this directly in the file 
FormalConjectures/WrittenOnTheWallII/GraphConjecture19.lean,

Perhaps using the `answer(False) \iff` mechanism: this way we avoid copying the statement. 

And let's optimize the proofs a bit...

**Review by mo271 — COMMENTED** [review]
looks good. 
Just to check: is this a legit counter example to Conjecture 19 on 
https://web.archive.org/web/20250908021324/http://cms.dt.uh.edu/faculty/delavinae/research/wowII/
or are there implicit, i.e. not captured by our formalisation, assumptions that exclude this (very small!) counterexample?

File: FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean
Comment (henrykmichalewski) [reply FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean:1]: Just to clarify, this is not a counterexample. Millions of graphs have already been computationally tested against this conjecture (which was generated by an automated system, see e.g. https://www.sciencedirect.com/science/article/pii/S0004370215001575 for more details) without contradiction. The goal of this test is simply to establish a very basic  baseline that we can expand to include more graphs later.

File: FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean [hunk 2]
```diff
@@ -0,0 +1,174 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.WrittenOnTheWallII.GraphConjecture19
+import Mathlib.Combinatorics.SimpleGraph.Coloring
+import Mathlib.Combinatorics.SimpleGraph.Bipartite
```
Comment (Paul-Lez) [inline FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean]: I think this should work
```suggestion
```

File: FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean [hunk 3]
```diff
@@ -0,0 +1,174 @@
...
+
+open SimpleGraph
+
+namespace WrittenOnTheWallII.GraphConjecture19
+
+def K3 : SimpleGraph (Fin 3) := completeGraph (Fin 3)
+
+lemma K3_b : b K3 = 2 := by
```
Comment (Paul-Lez) [inline FormalConjectures/WrittenOnTheWallII/TestConjecture19.lean:36]: Could you add the usual problem-file metadata here? Since this is a test file, the declarations below should have `@[category test, AMS 5]` where appropriate (or `API` for reusable support lemmas), and the file should also have a module docstring/reference. Small nit: the copyright header should use 2026 for new files.
